US08304539B2
Potassium carbonate (36.3 g, 263 mmol) was added to 3-chloroisonicotinic acid (10.35 g, 65.7 mmol) in DMSO (50 mL). After 30 min, MeI (8.22 mL, 131 mmol) was added. The mixture was stirred at room temperature for 2 h, quenched with saturated NH4Cl (300 mL) and water (200 mL), and extracted with EtOAc (3×200 mL). The combined extracts were washed with brine (2×50 mL), dried (MgSO4) and concentrated. Silica gel chromatography, eluting with 10-30% ethyl acetate in hexanes, gave methyl 3-chloroisonicotinate as a colorless liquid (6.275 g, 56% yield). MS (ES+) m/z: 172 (M+H); LC retention time: 2.45 min (analytical HPLC Method A).

reactant | Potassium carbonate | 263 mmol, 36.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloroisonicotinic acid | 65.7 mmol, 10.35 g | ClC1=C(C(=O)O)C=CN=C1 | C6H4ClNO2
reactant | MeI | 131 mmol, 8.22 mL | CI | CH3I
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | methyl 3-chloroisonicotinate | 6.275 g, 56% yield | ClC1=C(C(=O)OC)C=CN=C1 | C7H6ClNO2
